US07582629B2
tert-Butyl 5-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-1-benzofuran-2-carboxylate
A mixture of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (1.000 g, 3.336 mmol), tert-butyl 5-amino-1-benzofuran-2-carboxylate (0.778 g, 3.336 mmol) and TEA (0.340 ml, 2.471 mmol) in MeCN (5 ml) was heated in a microwave reactor at 160° C. for 1.5 h.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 3.336 mmol, 1.000 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | tert-butyl 5-amino-1-benzofuran-2-carboxylate | 3.336 mmol, 0.778 g | NC=1C=CC2=C(C=C(O2)C(=O)OC(C)(C)C)C1 | C13H15NO3
solvent | MeCN | 5 ml | CC#N | C2H3N
product | tert-Butyl 5-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-1-benzofuran-2-carboxylate | C(CCC)N1S(C(=C(C1=O)NC=1C=CC2=C(C=C(O2)C(=O)OC(C)(C)C)C1)C1=CC=CC=C1)(=O)=O | C26H28N2O6S
